US04292431
To a solution of 1.4 g (0.01 mol) of 4-ethylimidazole-5-carboxylic acid dissolved in a mixed solvent of 10 ml of water and 5 ml of 1,4-dioxane are successively added 2.52 g (0.03 mol) of sodium bicarbonate and 2 g of paraformaldehyde. The mixture is heated at 60°-70° C. for 4 hours. After completion of the reaction, the reaction mixture is concentrated to dryness, and the residue is extracted with acetone. The acetone extract is concentrated to give a viscous oil. The viscous oil is dissolved in ethanol, and dry HCl gas is passed to yield 4-ethyl-5-hydroxymethylimidazole hydrochloride as a crystal, m.p.138°-142° C.

reactant | 4-ethylimidazole-5-carboxylic acid | 0.01 mol, 1.4 g | C(C)C=1N=CNC1C(=O)O | C6H8N2O2
reactant | sodium bicarbonate | 0.03 mol, 2.52 g | C([O-])(O)=O.[Na+]
reactant | paraformaldehyde | 2 g | C=O | CH2O
reactant | HCl | Cl | ClH
solvent | water | 10 ml | O | H2O
solvent | 1,4-dioxane | 5 ml | O1CCOCC1 | C4H8O2
solvent | ethanol | C(C)O | C2H6O
product | 4-ethyl-5-hydroxymethylimidazole hydrochloride | Cl.C(C)C=1N=CNC1CO | InChI=1S/C6H10N2O.ClH/c1-2-5-6(3-9)8-4-7-5;/h4,9H,2-3H2,1H3,(H,7,8);1H
